US04517119
(c) N-Benzyloxycarbonyl-L-alanyl-γ-t-butyl-L-glutamyl-L-asparagine t-butyl ester
A solution of Z-Ala-OH (118.5 g, 0.53 mol, 1.05 eq.) in DMF (400 mL) was placed in a 2-l 3-neck creased round bottom flask fitted with a thermometer, mechanical stirrer, dropping funnel and immersed in a dry ice-acetone bath at -15°. The reaction was carried out under an atmosphere of N2, cooled to -15° and precooled (-20°) N-methylmorpholine (80.9 g, 0.80 mol, 1.58 eq.) added. After stirring for 4 min at -15°, the reaction mixture was cooled to -25° and precooled (-20°) isobutylchloroformate (72.5 g, 0.53 mol, 1.05 eq.) added portionwise over a 2 min period (temperature must not exceed -15°). The reaction mixture stirred for an additional 4 min at -25° and a precooled (-20°) solution of H-Glu(OtBu)-Asn-OtBu (189 g, 0.506 mol) in DMF (350 mL)-CH2Cl2 (150 mL) added as rapidly as possible while maintaining -15° to -20° (4 minutes). After the addition was complete the reaction mixture was stirred at -15° for 30 min and at 25° for 3 h. The reaction mixture was filtered and the filter cake washed with DMF (2×50 mL). The filtrate was evaporated in vacuo and the resultant syrup immediately poured into H2O (3.5 l). The suspension was stirred for 18 h and the product collected by filtration and washed with H2O (2×500 mL) and dried in vacuo. A total of 575.6 g (98.3%) was prepared in 2 batches. Recrystallization from EtOH (3.5 l):H2O (5 l) gave 533.4 g (91.1%); mp 174°-176°; [α]D25 -35.48° (c 1, MeOH); Rf 0.25 (CHCl3 :MeOH:AcOH; 80 -20-5).

reactant | Z-Ala-OH | 0.53 mol, 118.5 g, 1.05 eq. | N([C@@H](C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C11H13NO4
reactant | N-methylmorpholine | 0.80 mol, 80.9 g, 1.58 eq. | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 0.53 mol, 72.5 g, 1.05 eq. | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | H-Glu(OtBu)-Asn-OtBu | 0.506 mol, 189 g | N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC(N)=O)C(=O)OC(C)(C)C | C17H31N3O6
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
solvent | DMF | 350 mL | CN(C)C=O | C3H7NO
solvent | AcOH | CC(=O)O | C2H4O2
solvent | MeOH | CO | CH4O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | N-Benzyloxycarbonyl-L-alanyl-γ-t-butyl-L-glutamyl-L-asparagine t-butyl ester | C(C)(C)(C)OC([C@@H](NC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O)CC(C(O)=O)C(C)(C)C)=O)CC(N)=O)=O | C28H42N4O9
